* Same-condition finite-window amplifier observations. SPDX-License-Identifier: MIT
.lib /workspace/support/models/cornerMOSlv.lib mos_tt
.lib /workspace/support/models/cornerCAP.lib cap_typ
.lib /workspace/support/models/cornerRES.lib res_typ
.include parameters.spice
.include dut.spice
.temp 27
VSS vss 0 0
.save v(vdd) v(vout) v(vp) v(net1) i(VDD) i(VSS) i(VIN)
.options reltol=1e-7 abstol=1e-14 vntol=1e-10 itl4=1000
VDD vdd 0 1.5
VIN vp 0 dc 0.6 ac 1 pulse(0.6 { 0.6+step_v } 2u 100n 100n 8u 20u)
IBIAS vdd net1 20u
XDUT vdd vout vp vout net1 vss amp_022_fer_two_stage
CLOAD vout 0 {load_f}
.control
set noaskquit
set num_threads=1
set numdgt=15
set measdgt=15
op
let kcl_a=abs(i(vdd)+i(vss)+i(vin))
print kcl_a
let output_v=v(vout)
let bias_v=v(net1)
let power_w=-v(vdd)*i(VDD)
print output_v bias_v power_w
write op.raw all
ac dec 200 1 1g
let closed_gain_db=db(v(vout))
meas ac closed_gain_10khz_db find closed_gain_db at=10k
write ac.raw all
tran 0.5n 20u 0 0.5n
let end_time=time[length(time)-1]
if abs(end_time-20u) > 1e-12
 echo Error: incomplete transient window
 quit 1
end
let sample_index=vector(length(time))
meas tran edge_0 find sample_index at=0
let edge_0=floor(edge_0)
if edge_0 >= length(time)-1
 let edge_0=length(time)-2
end
if time[edge_0] > 0
 let edge_0=edge_0-1
end
if time[edge_0+1] < 0
 let edge_0=edge_0+1
end
let frac_edge_0=(0-time[edge_0])/(time[edge_0+1]-time[edge_0])
meas tran edge_10u find sample_index at=10u
let edge_10u=floor(edge_10u)
if edge_10u >= length(time)-1
 let edge_10u=length(time)-2
end
if time[edge_10u] > 10u
 let edge_10u=edge_10u-1
end
if time[edge_10u+1] < 10u
 let edge_10u=edge_10u+1
end
let frac_edge_10u=(10u-time[edge_10u])/(time[edge_10u+1]-time[edge_10u])
meas tran edge_18u find sample_index at=18u
let edge_18u=floor(edge_18u)
if edge_18u >= length(time)-1
 let edge_18u=length(time)-2
end
if time[edge_18u] > 18u
 let edge_18u=edge_18u-1
end
if time[edge_18u+1] < 18u
 let edge_18u=edge_18u+1
end
let frac_edge_18u=(18u-time[edge_18u])/(time[edge_18u+1]-time[edge_18u])
meas tran edge_20u find sample_index at=20u
let edge_20u=floor(edge_20u)
if edge_20u >= length(time)-1
 let edge_20u=length(time)-2
end
if time[edge_20u] > 20u
 let edge_20u=edge_20u-1
end
if time[edge_20u+1] < 20u
 let edge_20u=edge_20u+1
end
let frac_edge_20u=(20u-time[edge_20u])/(time[edge_20u+1]-time[edge_20u])
meas tran edge_2u find sample_index at=2u
let edge_2u=floor(edge_2u)
if edge_2u >= length(time)-1
 let edge_2u=length(time)-2
end
if time[edge_2u] > 2u
 let edge_2u=edge_2u-1
end
if time[edge_2u+1] < 2u
 let edge_2u=edge_2u+1
end
let frac_edge_2u=(2u-time[edge_2u])/(time[edge_2u+1]-time[edge_2u])
meas tran edge_8u find sample_index at=8u
let edge_8u=floor(edge_8u)
if edge_8u >= length(time)-1
 let edge_8u=length(time)-2
end
if time[edge_8u] > 8u
 let edge_8u=edge_8u-1
end
if time[edge_8u+1] < 8u
 let edge_8u=edge_8u+1
end
let frac_edge_8u=(8u-time[edge_8u])/(time[edge_8u+1]-time[edge_8u])
let error_v=abs(v(vout)-v(vp))
let supply=-v(vdd)*i(VDD)
let int_late_error_v=integ(error_v)
let val_late_error_v=error_v
let a_late_error_v=int_late_error_v[edge_8u]+(8u-time[edge_8u])*(val_late_error_v[edge_8u]+0.5*frac_edge_8u*(val_late_error_v[edge_8u+1]-val_late_error_v[edge_8u]))
let b_late_error_v=int_late_error_v[edge_10u]+(10u-time[edge_10u])*(val_late_error_v[edge_10u]+0.5*frac_edge_10u*(val_late_error_v[edge_10u+1]-val_late_error_v[edge_10u]))
let late_error_v=(b_late_error_v-a_late_error_v)/(10u-8u)
print late_error_v
let int_return_error_v=integ(error_v)
let val_return_error_v=error_v
let a_return_error_v=int_return_error_v[edge_18u]+(18u-time[edge_18u])*(val_return_error_v[edge_18u]+0.5*frac_edge_18u*(val_return_error_v[edge_18u+1]-val_return_error_v[edge_18u]))
let b_return_error_v=int_return_error_v[edge_20u]+(20u-time[edge_20u])*(val_return_error_v[edge_20u]+0.5*frac_edge_20u*(val_return_error_v[edge_20u+1]-val_return_error_v[edge_20u]))
let return_error_v=(b_return_error_v-a_return_error_v)/(20u-18u)
print return_error_v
let int_high_v=integ(v(vout))
let val_high_v=v(vout)
let a_high_v=int_high_v[edge_8u]+(8u-time[edge_8u])*(val_high_v[edge_8u]+0.5*frac_edge_8u*(val_high_v[edge_8u+1]-val_high_v[edge_8u]))
let b_high_v=int_high_v[edge_10u]+(10u-time[edge_10u])*(val_high_v[edge_10u]+0.5*frac_edge_10u*(val_high_v[edge_10u+1]-val_high_v[edge_10u]))
let high_v=(b_high_v-a_high_v)/(10u-8u)
print high_v
let int_low_v=integ(v(vout))
let val_low_v=v(vout)
let a_low_v=int_low_v[edge_18u]+(18u-time[edge_18u])*(val_low_v[edge_18u]+0.5*frac_edge_18u*(val_low_v[edge_18u+1]-val_low_v[edge_18u]))
let b_low_v=int_low_v[edge_20u]+(20u-time[edge_20u])*(val_low_v[edge_20u]+0.5*frac_edge_20u*(val_low_v[edge_20u+1]-val_low_v[edge_20u]))
let low_v=(b_low_v-a_low_v)/(20u-18u)
print low_v
let val_ripple_v=v(vout)
let win_ripple_v=val_ripple_v[edge_8u+1,edge_10u]
let end_a_ripple_v=val_ripple_v[edge_8u]+frac_edge_8u*(val_ripple_v[edge_8u+1]-val_ripple_v[edge_8u])
let end_b_ripple_v=val_ripple_v[edge_10u]+frac_edge_10u*(val_ripple_v[edge_10u+1]-val_ripple_v[edge_10u])
let min_ripple_v=min(vecmin(win_ripple_v),min(end_a_ripple_v,end_b_ripple_v))
let max_ripple_v=max(vecmax(win_ripple_v),max(end_a_ripple_v,end_b_ripple_v))
let ripple_v=max_ripple_v-min_ripple_v
print ripple_v
let val_return_ripple_v=v(vout)
let win_return_ripple_v=val_return_ripple_v[edge_18u+1,edge_20u]
let end_a_return_ripple_v=val_return_ripple_v[edge_18u]+frac_edge_18u*(val_return_ripple_v[edge_18u+1]-val_return_ripple_v[edge_18u])
let end_b_return_ripple_v=val_return_ripple_v[edge_20u]+frac_edge_20u*(val_return_ripple_v[edge_20u+1]-val_return_ripple_v[edge_20u])
let min_return_ripple_v=min(vecmin(win_return_ripple_v),min(end_a_return_ripple_v,end_b_return_ripple_v))
let max_return_ripple_v=max(vecmax(win_return_ripple_v),max(end_a_return_ripple_v,end_b_return_ripple_v))
let return_ripple_v=max_return_ripple_v-min_return_ripple_v
print return_ripple_v
let int_mean_power_w=integ(supply)
let val_mean_power_w=supply
let a_mean_power_w=int_mean_power_w[edge_2u]+(2u-time[edge_2u])*(val_mean_power_w[edge_2u]+0.5*frac_edge_2u*(val_mean_power_w[edge_2u+1]-val_mean_power_w[edge_2u]))
let b_mean_power_w=int_mean_power_w[edge_20u]+(20u-time[edge_20u])*(val_mean_power_w[edge_20u]+0.5*frac_edge_20u*(val_mean_power_w[edge_20u+1]-val_mean_power_w[edge_20u]))
let mean_power_w=(b_mean_power_w-a_mean_power_w)/(20u-2u)
print mean_power_w
let val_output_min_v=v(vout)
let win_output_min_v=val_output_min_v[edge_0+1,edge_20u]
let end_a_output_min_v=val_output_min_v[edge_0]+frac_edge_0*(val_output_min_v[edge_0+1]-val_output_min_v[edge_0])
let end_b_output_min_v=val_output_min_v[edge_20u]+frac_edge_20u*(val_output_min_v[edge_20u+1]-val_output_min_v[edge_20u])
let min_output_min_v=min(vecmin(win_output_min_v),min(end_a_output_min_v,end_b_output_min_v))
let max_output_min_v=max(vecmax(win_output_min_v),max(end_a_output_min_v,end_b_output_min_v))
let output_min_v=min_output_min_v
print output_min_v
let val_output_max_v=v(vout)
let win_output_max_v=val_output_max_v[edge_0+1,edge_20u]
let end_a_output_max_v=val_output_max_v[edge_0]+frac_edge_0*(val_output_max_v[edge_0+1]-val_output_max_v[edge_0])
let end_b_output_max_v=val_output_max_v[edge_20u]+frac_edge_20u*(val_output_max_v[edge_20u+1]-val_output_max_v[edge_20u])
let min_output_max_v=min(vecmin(win_output_max_v),min(end_a_output_max_v,end_b_output_max_v))
let max_output_max_v=max(vecmax(win_output_max_v),max(end_a_output_max_v,end_b_output_max_v))
let output_max_v=max_output_max_v
print output_max_v
write transient.raw v(vout) v(vp) i(VDD) error_v supply
quit
.endc
.end
